US09145392B2
6-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-5-methoxy-pyrimidin-4-ylamine (“9”)
A mixture of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine (40.00 mg; 0.12 mmol; 1.0 eq.), 6-chloro-5-methoxypyrimidin-4-amine (20.48 mg; 0.13 mmol; 1.05 eq.), potassium carbonate (33.78 mg; 0.24 mmol; 2.0 eq.) in DMSO (1.00 ml) in a microwave vial was heated at 150° C. for 2 h. LC-MS show ˜40% conversion and product eluted closely to the amine starting material. The reaction mixture was workup and the crude was purified by reverse phase pre-HPLC (Waters, acetonitrile/0.1% TFA in water) to yield desired product in 22% yield. LC-MS: (M+1=451, obsd.=451).

reactant | 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine | 0.12 mmol, 40.00 mg, 1.0 eq. | FC1=C(C=C(C=C1)C=1N=C(N(C1)C)C1CCNCC1)C(F)(F)F | C16H17F4N3
reactant | 6-chloro-5-methoxypyrimidin-4-amine | 0.13 mmol, 20.48 mg, 1.05 eq. | ClC1=C(C(=NC=N1)N)OC | C5H6ClN3O
reactant | potassium carbonate | 0.24 mmol, 33.78 mg, 2.0 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1.00 ml | CS(=O)C | C2H6OS
product | 6-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-5-methoxy-pyrimidin-4-ylamine | 22% yield | FC1=C(C=C(C=C1)C=1N=C(N(C1)C)C1CCN(CC1)C1=C(C(=NC=N1)N)OC)C(F)(F)F | C21H22F4N6O
